US07842701B2
3-amino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-5-benzyl-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (0.26 g), 48% aqueous hydrobromic acid (8 ml) and acetic acid (1.3 ml) was heated at 100° C. for 36 hours. After cooling, ice was added thereto, and basified by adding an 11N aqueous sodium hydroxide solution. The precipitated crystal was collected by filtration, washed with water and dried. Methanol and ethyl acetate were added to the crystal, and the mixture was heated under reflux for 10 minutes. After cooling, the precipitated crystal was collected by filtration to obtain the target compound (47 mg).

reactant | 3-amino-5-benzyl-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.26 g | NC=1N(N=C2C1C(N(C=1C=CC=CC21)CC2=CC=CC=C2)=O)C2=CC=CC=C2 | C23H18N4O
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | sodium hydroxide | 11N | [OH-].[Na+]
solvent | acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
product | 3-amino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 47 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC=CC=C2 | C16H12N4O
